US08378095B2
To a solution 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylic acid (0.92 g, 2.7 mmol) in DCM (20 mL) and DMF (10 mL) was added hydroxybenzotriazole monohydrate (0.44 g, 2.9 mmol) followed by 0.5M ammonia in dioxane (22 mL, 11.0 mmol) and 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride (0.77 g, 4.0 mmol) and the reaction stirred at room temperature overnight. EtOAc was then added and the mixture washed with brine. The organic phase was dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using gradient of 0-50% EtOAc in DCM to afford 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxamide (0.66 g. 1.9 mmol, 70%) as a yellow solid. 1H NMR (CDCl3) 3.79 (3H, s), 5.47 (1H, br. s), 6.90 (2H, d), 6.94 (1H, br. s), 8.14 (2H, d). LCMS (1) Rt: 1.84 min; m/z (ES+) 345.

reactant | 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylic acid | 2.7 mmol, 0.92 g | IC=1OC(=C(N1)C(=O)O)C1=CC=C(C=C1)OC | C11H8INO4
reactant | hydroxybenzotriazole monohydrate | 2.9 mmol, 0.44 g | O.OC1=CC=CC=2NN=NC21
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 11.0 mmol, 22 mL | O1CCOCC1 | C4H8O2
reactant | 1-(3-(dimethylamino)propyl)-3-ethyl-carbodiimide hydrochloride | 4.0 mmol, 0.77 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxamide | 1.9 mmol, 0.66 g, 70% | IC=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OC | C11H9IN2O3
